US09101135B2
(9-1) Production of 3-[(2,2,2-trichloroethoxy)carbonylamino]benzoic acid
To an aqueous solution (200 ml) of 8.22 g of m-aminobenzoic acid and 4.8 g of sodium hydroxide was dropwise added 25.0 g of 2,2,2-trichloroethyl chloroformate at room temperature. During the dropwise addition, the reaction solution was controlled to pH 10 or more by appropriately adding a 1N sodium hydroxide aqueous solution. After the reaction, the solution was controlled to pH 1 by adding 1N hydrochloric acid, and the precipitates were collected by filtration. The resultant crude crystals were dried and then washed with a ethyl acetate/n-hexane mixed solvent to obtain 16.2 g (yield 87%) of the title compound as a solid.

reactant | sodium hydroxide | 4.8 g | [OH-].[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 25.0 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | m-aminobenzoic acid | 200 ml, 8.22 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
product | 3-[(2,2,2-trichloroethoxy)carbonylamino]benzoic acid | 16.2 g, yield 87% | ClC(COC(=O)NC=1C=C(C(=O)O)C=CC1)(Cl)Cl | C10H8Cl3NO4
